US07619095B2
500 ml of THF and 76.5 gm NaBH4 was stirred for 30 min. at ambient temperature. Solution of 2-Methyl-3-nitro benzoic acid in THF (250 g in 750 ml) was added and stirred for 0.5 hour at ambient temperature. Further, methanesulphonic acid (90 ml) was added to the reaction mixture and stirred until the completion of reaction. The reaction mixture is extracted with ethyl acetate by addition of Hydrochloric acid and product organic layer is separated out. Ethyl acetate is evaporated to give 2-Methyl-3-nitrobenzyl alcohol as yellow oil, which is further treated with cyclohexane and crystallized to give 2-Methyl-3-nitrobenzyl alcohol (Yield: ˜210 g., 84%)

reactant | NaBH4 | 76.5 gm | [BH4-].[Na+]
reactant | 2-Methyl-3-nitro benzoic acid | CC1=C(C(=O)O)C=CC=C1[N+](=O)[O-] | C8H7NO4
reactant | methanesulphonic acid | 90 ml | CS(=O)(=O)O | CH4O3S
solvent | THF | 750 ml, 250 g | C1CCOC1 | C4H8O
solvent | THF | 500 ml | C1CCOC1 | C4H8O
product | 2-Methyl-3-nitrobenzyl alcohol | CC1=C(CO)C=CC=C1[N+](=O)[O-] | C8H9NO3
